* source CONTROL_VENTANA-LLUVIA
V_V1         N00104 0 5Vdc
X_U1         N02050 0 N01400 N01388 N00104 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
V_V2         N00930 0 5Vdc
X_U3         N01388 0 N01660 N01648 N00104 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
X_U4         N01400 0 N01660 N01648 0 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
X_D1         N02479 N02149 awb1n4148 PARAMS:                
X_D2         N02313 N02153 awb1n4148 PARAMS:                
X_U5         N00104 N02050 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U6         N02153 N02309 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U7         N02149 N02305 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U8         N02305 0 N02479 0 N04998 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
X_U9         N02309 0 N02313 0 N04980 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
X_D4         0 N07623 awb1n4148 PARAMS:                
X_D3         N07769 N07617 awb1n4148 PARAMS:                
X_U12         N07697 0 N07769 0 N07879 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
X_U10         N07623 N07703 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U11         N07617 N07697 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U13         N07703 0 0 0 N07861 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
V_V3         N07769 0 5Vdc
